US09126935B2
N-Methyl-4-(4-(2-(phenylamino)benzamido)phenoxy)picolinamide
4-Chloro-N-methylpicolinamide (70 mg, 410 μmol), N-(4-hydroxyphenyl)-2-(phenylamino)benzamide (150 mg, 492 μmol), cesium carbonate (267 mg, 821 μmol), and DMSO (410 μl 410 μmol) were added into a screw-capped test tube. The tube was sealed and placed in a preheated oil bath at 130° C. After 16 h, LC-MS showed mainly desired product. Water was added, and a gray solid precipitated out of the solution. The solid was filtered off and rinsed with water. The product was purified by reverse phase preparative HPLC. Fractions containing the product were combined, neutralized with sat NaHCO3 (aq), washed with brine, dried over MgSO4, and concentrated in vacuo. The product, N-methyl-4-(4-(2-(phenylamino)benzamido)phenoxy)picolinamide was collected as a black solid. MS Calcd for C26H22N4O3: [M]+=438. Found: [M+H]+=439.

reactant | 4-Chloro-N-methylpicolinamide | 410 μmol, 70 mg | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | N-(4-hydroxyphenyl)-2-(phenylamino)benzamide | 492 μmol, 150 mg | OC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC1=CC=CC=C1)=O | C19H16N2O2
reactant | cesium carbonate | 821 μmol, 267 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 410 μmol, 410 μl | CS(=O)C | C2H6OS
product | N-Methyl-4-(4-(2-(phenylamino)benzamido)phenoxy)picolinamide | CNC(C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC1=CC=CC=C1)=O)=O | C26H22N4O3
